US06448241B1
2-(Pyrrolidin-1-ylmethyl)-6-trifluoro-methylquinoline may be prepared by carrying out the procedure as in Example 29, but starting with 3 g of -2-chloromethyl-6-trifluoromethylquinoline and 2.6 g of pyrrolidine in 30 ml of ethanol. The crude product obtained is chromatographed on a silica gel column, eluting with a mixture of dichloromethane and methanol (99-1 by volume). 2.5 g of 2-(pyrrolidin-1-ylmethyl)-6-trifluoromethylquinoline are thus obtained in the form of an orange-coloured oil [1H NMR spectrum in CDCl31 T=300K, δ in ppm (300 MHz) : 2.15 (4H, m, 2 CH2), 3.30 (4H, m, 2 NCH2), 4.50 (2H, s, NCH2), 7.90 (1H, d, J=8 Hz, arom. CH), 8.15 (2H, m, 2 arom. CH), 8.25 (1H, d, J=8 Hz, arom. CH), 8.35 (1H, d, J=8 Hz, arom. CH)].

reactant | 2-chloromethyl-6-trifluoromethylquinoline | ClCC1=NC2=CC=C(C=C2C=C1)C(F)(F)F | C11H7ClF3N
reactant | pyrrolidine | 2.6 g | N1CCCC1 | C4H9N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(pyrrolidin-1-ylmethyl)-6-trifluoromethylquinoline | 2.5 g | N1(CCCC1)CC1=NC2=CC=C(C=C2C=C1)C(F)(F)F | C15H15F3N2
